US09376441B2
Methyl 4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridine-3-carboxylate (152 mg, 0.480 mmol) was dissolved in HBr (48%, 2.0 mL) and the reaction was heated to 100° C. for 1.5 h. AcOH/HBr (1.0 mL) was added and the reaction was stirred overnight. The mixture was cooled to 0° C. and neutralized with 1M NaOH. The aqueous layer was extracted with dichloromethane (3×) and the combined organics were washed with brine, dried (MgSO4), filtered and concentrated to afford 6-chloropyrazolo[1,5-a]pyridin-4-ol.

reactant | Methyl 4-(benzyloxy)-6-chloropyrazolo[1,5-a]pyridine-3-carboxylate | 0.480 mmol, 152 mg | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)Cl)N=CC2C(=O)OC | C16H13ClN2O3
reactant | AcOH HBr | 1.0 mL | CC(=O)O.Br
reactant | NaOH | 1M | [OH-].[Na+]
solvent | HBr | 2.0 mL | Br | BrH
product | 6-chloropyrazolo[1,5-a]pyridin-4-ol | ClC=1C=C(C=2N(C1)N=CC2)O | C7H5ClN2O
